US07288548B2
To (S)-(+)-4-phenyl-2-oxazolidinone (9.88 g, 60 mmol) in THF (150 mL) at −78° C., was added n-butyl lithium (37.7 mL, 1.6M in hexanes, 60 mmol) over a period of 30 minutes. THF (50 mL) was added to the resultant thick suspension and the reaction mixture allowed to warm up to facilitate stirring. Trans-cinnamoylchloride (11.5 g, 69 mmol) in THF (30 mL) was added dropwise. The reaction was stirred at room temperature overnight. The reaction mixture was quenched with a saturated ammonium chloride solution (50 mL) and stirred for 0.5h. The solvent was removed in vacuo, the residue dissolved in ethyl acetate, washed with water (300 mL), 5% sodium bicarbonate (200 mL) and brine (100 mL) and dried over sodium sulfate. The solvent was removed in vacuo to give a pale yellow solid. The compound was crystallized from ethylacetate and washed with hexanes to give 17.12 g (97%) of (S)-4-phenyl-3-[(E)-(3-phenyl-acryloyl)]-oxazolidin-2-one.

reactant | (S)-(+)-4-phenyl-2-oxazolidinone | 60 mmol, 9.88 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
reactant | n-butyl lithium | 60 mmol, 1.6M, 37.7 mL | C(CCC)[Li]
reactant | Trans-cinnamoylchloride | 69 mmol, 11.5 g | C(\C=C\C1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-4-phenyl-3-[(E)-(3-phenyl-acryloyl)]-oxazolidin-2-one | 17.12 g, 97% | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=CC=C1)=O | C18H15NO3
